US05134142
A mixture of 1-(4-fluoropheny)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile (1 g), ammonium chloride (0.25 g) and sodium azide (0.24 g) in N,N-dimethylformamide (10 ml) was stirred at 105° C. for 10 hours. The mixture was poured into ice-water, and the precipitates were collected, washed with water, and recrystallized from a mixture of ethanol and tetrahydrofuran to give crystals of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3-(5-tetrazolyl)pyrazole (0.71 g).

reactant | 1-(4-fluoropheny)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile | 1 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C17H12FN3O2S
reactant | ammonium chloride | 0.25 g | [Cl-].[NH4+]
reactant | sodium azide | 0.24 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3-(5-tetrazolyl)pyrazole | 0.71 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C1=NN=NN1 | C17H13FN6O2S
